US07655664B2
3-Methoxy-2,7-naphthridine
6-Methoxy-4-[(trimethylsilyl)ethynyl]-nicotinaldehyde (0.25 g, 1.1 mmol) and 7M ammonia in MeOH (5 mL) were stirred in a sealed vial at 80° C. overnight. The solution was concentrated, taken up in saturated sodium carbonate and extracted with ether. The organic phase was dried, filtered and concentrated to give 0.20 g of the title product.

reactant | 6-Methoxy-4-[(trimethylsilyl)ethynyl]-nicotinaldehyde | 1.1 mmol, 0.25 g | COC1=NC=C(C=O)C(=C1)C#C[Si](C)(C)C | C12H15NO2Si
reactant | ammonia | 7M | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 3-Methoxy-2,7-naphthridine | 0.20 g | COC=1N=CC2=CN=CC=C2C1 | C9H8N2O
